US08309542B2
(d) (R)-6-Bromo-2,3-dimethyl-3,4-dihydro-2H-isoquinolin-1-one
426 mg (1.7 mmol) (R)-6-bromo-3-methyl-3,4-dihydro-2H-isoquinolin-1-one are dissolved in 3 ml DMF and at 0° C. combined with 80 mg (2 mmol) sodium hydride (60% in mineral oildispersion). After 10 minutes 122 μl (1.9 mmol) methyl iodide are added dropwise, and the mixture is stirred for 16 hours at RT. Then the reaction mixture is mixed with water and extracted three times with ethyl acetate. The combined organic phases are dried on sodium sulphate, filtered and evaporated down i. vac. The residue is purified by flash chromatography on silica gel (eluant DCM/MeOH 20:1).

reactant | (R)-6-bromo-3-methyl-3,4-dihydro-2H-isoquinolin-1-one | 1.7 mmol, 426 mg | BrC=1C=C2C[C@H](NC(C2=CC1)=O)C | C10H10BrNO
reactant | sodium hydride | 2 mmol, 80 mg | [H-].[Na+]
reactant | methyl iodide | 1.9 mmol, 122 μl | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | (R)-6-Bromo-2,3-dimethyl-3,4-dihydro-2H-isoquinolin-1-one | BrC=1C=C2C[C@H](N(C(C2=CC1)=O)C)C | C11H12BrNO
